US08703758B2
E) {trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}methanol
To a suspension of lithium aluminum hydride (0.462 g) in THF (100 mL) was added dropwise a solution of methyl trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexanecarboxylate (4.00 g) in THF (100 mL) under ice-cooling. The reaction mixture was stirred under ice-cooling for 2 hr, and water (0.462 mL), 5N aqueous sodium hydroxide solution (0.462 mL) and water (0.462 mL) were carefully added successively thereto. The reaction mixture was stirred under ice-cooling for 30 min, and the resulting precipitate was filtered off. The obtained filtrate was concentrated under reduced pressure to give the title compound (3.51 g).

reactant | lithium aluminum hydride | 0.462 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexanecarboxylate | 4.00 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)C(=O)OC | C19H24N2O3
reactant | water | 0.462 mL | O | H2O
reactant | sodium hydroxide | 5N, 0.462 mL | [OH-].[Na+]
reactant | water | 0.462 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | {trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}methanol | 3.51 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)CO | C18H24N2O2
